* Parametric CMOS Inverter Netlist

.incl tsmc18.sp

* Parameters
.param Wp=10u
.param Lp=0.18u
.param Wn=5u
.param Ln=0.18u
.param Cl=10f

* Power supply
VDD vdd 0 1.8

* Input pulse
Vin in 0 PULSE(0 1.8 1n 50p 50p 2n 4n)

* PMOS (M1)
M1 out in vdd vdd PMOS W={Wp} L={Lp}

* NMOS (M2)
M2 out in 0 0 NMOS W={Wn} L={Ln}

* Load Capacitance
Cload out 0 {Cl}

* Simulation control (example: transient analysis)
.tran 0.1n 10n

* Propagation delay measurements
* tplh: output rising (0 -> 1), input falling (1 -> 0)
.measure tran tplh TRIG V(in) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 RISE=1

* tphl: output falling (1 -> 0), input rising (0 -> 1)
.measure tran tphl TRIG V(in) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 FALL=1

* Plotting/Printing
*.print tran V(in) V(out)
* Or, for some SPICE variants:
 .plot tran V(in) V(out)

.end
